US06855710B2
(Z)-3-[1-(3-amidinophenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 62 from (Z)-3-[1-(3-cyanophenylamino)-1-phenyl-methylidene]-2-indolinone and methanolic hydrochloric acid in methanol and ammonium acetate.

reactant | (Z)-3-[1-(3-cyanophenylamino)-1-phenyl-methylidene]-2-indolinone | C(#N)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H15N3O
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | methanol | CO | CH4O
product | (Z)-3-[1-(3-amidinophenylamino)-1-phenyl-methylidene]-2-indolinone | C(N)(=N)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H18N4O
